US04925849
Isobutyl chloroformate (1.04 g) was added dropwise to a mixture of 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylic acid (trans isomer). (2.0 g) and triethylamine (0.766 g) in methylene chloride (40 ml) and tetrahydrofuran (10 ml) at -20° C. with stirring. After being stirred at the same temperature for 30 minutes, a solution of 2-ethylpiperidine (0.942 g) in tetrahydrofuran (10 ml) was added thereto dropwise at -20° C. and the mixture was stirred at -20° C. to 10° C. for 2 hours. The mixture was warmed to room temperature and evaporated in vacuo. A saturated sodium bicarbonate solution was added to the residue and extracted twice with chloroform (50 ml). The combined extract was washed with saturated brine (50 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (40 g) with chloroform as an eluent. The fractions containing the object compound were combined and evaporated in vacuo to give 1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine (trans isomer) (1.30 g) as an oil.

reactant | Isobutyl chloroformate | 1.04 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acrylic acid | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)O | C16H12N2O2
reactant | triethylamine | 0.766 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethylpiperidine | 0.942 g | C(C)C1NCCCC1 | C7H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acryloyl]-2-ethylpiperidine | 1.30 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1C(CCCC1)CC | C23H25N3O
